US05434154
A solution of technical grade 3-nitropyridone (25 g, 177 mmol) (contains about 20% 3,5-dinitropyridone by weight) in 150 mL of phosphorous oxychloride was heated at 90° C. for 2 h. The excess phosphorous oxychloride was removed by distillation and the remaining oil poured into ice/water. The aqueous solution was extracted with five 300 mL portions of CH2Cl2. The CH2Cl2 extracts were dried (MgSO4), filtered and concentrated in vacuo to yield 26.7 g of crude 4-chloro-3-nitropyridine. To a solution of the crude 4-chloro-3-nitropyridine (26.7 g) in 200 mL of MeCN was added potassium carbonate (25.7 g, 186 mmol) and ethyl 1-piperazinecarboxylate (27.2 mL, 186 mmol). The reaction mixture was stirred at 23° C. for 16 h and then concentrated in vacuo. The mixture was diluted with ethyl acetate (1 L), and the organic solution was washed with water, dried (brine, MgSO4), filtered and concentrated in vacuo to a solid mass. Silica gel chromatography of the mixture gave ethyl 4-(3-nitro-4-pyridinyl)-1-piperazinecarboxylate (34.73 g, 73%): mp 101°-103° C., and ethyl 4-(3,5-dinitro-4-pyridinyl)-1-piperazinecarboxylate (7.07 g, 22%): mp 165°-167° C. Anal. Calcd for C12H16N4O4 : C, 51.42; H, 5.75; N, 19.99. Found: C, 51.26; H, 5.69; N, 19.91. Anal. Calcd for C12H15N5O6 : C, 44.31; H, 4.65; N, 21.53. Found: C, 44.51; H, 4.65; N, 21.36.

reactant | 3-nitropyridone | 177 mmol, 25 g | [N+](=O)([O-])C=1C(NC=CC1)=O | C5H4N2O3
reactant | phosphorous oxychloride | 150 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-3-nitropyridine | 26.7 g | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
